2157-02-12 07:37:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Patient with tachycardia and hypertension responsive to IV Diltiazem.
   - Patient with desaturation to 84% on 4L nasal cannula around 0500.
   Recovered to mid 90s with high flow nebs. Renal notified for emergent
   dialysis.
   - Received dialysis in the morning of [**2-12**].
   Allergies:
   Morphine
   pt gets "itchy"
   Last dose of Antibiotics:
   Infusions:
   Nitroglycerin - 1 mcg/Kg/min
   Other ICU medications:
   Diltiazem - [**2157-2-12**] 12:10 AM
   Hydromorphone (Dilaudid) - [**2157-2-12**] 05:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-2-12**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**59**] AM
   Tmax: 35.7
C (96.3
   Tcurrent: 35.7
C (96.3
   HR: 90 (89 - 137) bpm
   BP: 161/89(107) {151/66(90) - 190/94(113)} mmHg
   RR: 23 (21 - 34) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
             268 mL
   PO:
             240 mL
   TF:
   IVF:
   28 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    200 mL
   Urine:
   200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                     68 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 92%
   ABG: ///22/
   Physical Examination
   General: Oriented X 3. Able to speak in full sentances without
   respiratory distress.
   HEENT: Sclera anicteric, PERRL 3->2, MM slightly dry, oropharynx
   clear.
   Neck: supple, JVD elevated at least to ear.
   Lungs: Bilateral ronchi 1/2 up lung.
   CV: Tachycardic, normal S1 + S2, no appreciated murmurs, rubs,
   gallops.
   Abdomen: soft, mildly distended, bowel sounds present, no tenderness or
   guarding, no organomegaly.
   Ext: well perfused, 2+ pulses, no clubbing, cyanosis, 1+ bilat LE
   edema. LUE with fistula vs. graft, good bruit and thrill.
   Neuro: CN II-XII intact. Strength 5/5 in distal UEs and LEs.
   Labs / Radiology
   182 K/uL
   10.0 g/dL
   134 mg/dL
   9.9 mg/dL
   22 mEq/L
   9.1 mEq/L
   61 mg/dL
   95 mEq/L
   133 mEq/L
   31.3 %
   11.8 K/uL
        [image002.jpg]
                             [**2157-2-12**]  04:16 AM
   WBC
   11.8
   Hct
   31.3
   Plt
   182
   Cr
   9.9
   TropT
   0.23
   Glucose
   134
   Other labs: CK / CKMB / Troponin-T:109/4/0.23, Ca++:9.4 mg/dL, Mg++:2.3
   mg/dL, PO4:5.3 mg/dL
   [**2157-2-11**] CXR: Bilateral airspace opacities, likely pulmonary edema
   with superimposed infection involving the right lower and left mid
   lungs.  Unchanged right pleural effusion.
   [**2157-2-11**]  BLOOD CULTURE Blood Culture, Routine-PENDING EMERGENCY [**Hospital1 **]
   [**2157-2-11**]  BLOOD CULTURE Blood Culture, Routine-PENDING EMERGENCY [**Hospital1 **]
   Assessment and Plan
   60M with ESRD on HD, CAD, DM, atrial arrhythmia, CHF, presenting with
   shortness of breath and chest pain in setting of cocaine abuse and
   missing hemodialysis.
   .
   # Chest pain. Differential includes ACS, cocaine induced chest pain,
   pericarditis versus costacondiritis. Unlikely ACS as recent cath [**2155**]
   no CAD (however could be cocaine induced ischemia), no acute changes on
   EKG and was recently admitted with negative rule out. Pain is not
   positional and no changes on EKG to suggest pericarditis. Pain is not
   reproducible to palpation to suggest costachondritis. Most likely
   cocaine induced chest pain based on recent use and prior history.
   - ROMI
   - Continue statin; hold ACEI with increased K. Received ASA by EMS,
   continue 81 mg daily
   - BP control/decrease of myocardial demand with HD in AM
   - For pain control dilaudid, percocet and benzodiazepines prn
   - Encourage cessation of cocaine abuse
   .
   # Hypoxia. Volume overload with pulmonary edema and effusions in
   setting of not getting HD. No evidence of pneumonia currently, though
   does have productive cough. History most consistent with volume
   overload, unlikely PE.
   - HD in AM
   - Attempt to wean off 100% NRB
   - Can repeat CXR after diuresis if still with hypoxia or cough
   - Diuresis with lasix
   - Hold off on antibiotics as no fever, no leukocytosis; likely volume
   overload given clinical history
   .
   # Tachycardia/Aflutter. Patient with baseline Aflutter; currently
   demonstrating 2:1 conduction. Patient required diltiazem 10 mg IV for
   HR 170s.
   - Avoid BBs due to history of cocaine use.
   - Convert long acting po diltiazem to short acting
   - If poorly controlled IV diltiazem or drip prn
   - Cannot anticoagulate long term given GIBs per past notes..
   .
   # Hyperkalemia. With ESRD and poor adherence to HD. No peaked t waves
   on EKG.  Received dose of Kayexelate.
   - Monitor on tele.
   - HD in AM.
   - If ECG changes (peaked Ts) develop, give calcium, insulin and D50
   - Glucose control to encourage intracellular entry
   - Hold ACEI.
   .
   # Hypertension: Secondary to volume overload.
   - Avoid BB due to cocaine use
   - Diltiazem 60 mg QID
   - If poorly controlled 190s or greater start nitro drip
   .
   # ESRD on HD. Overdue for HD as above.
   - HD in early AM.
   - Managment of K.
   - Continue renagel/nephrocaps/renal diet
   .
   # Depression. Concerning that missed HD - recent admission for similar
   complaints.
   - SW consult.
   .
   # Cocaine abuse. [**Last Name **] problem for patient.
   - SW consult.
   .
   # Metabolic acidosis. Anion gap 18. Lactate normal. Likely secondary to
   renal failure from CKD.
   - Management as above.
   .
   # Diabetes: Continue Insulin sliding scale.
   .
   # FEN: No IVF, replete electrolytes, renal/DM/low Na
   # Prophylaxis: Subcutaneous heparin, home PPI
   # Access: peripherals - EJ plus fistula
   # Communication: Patient
   # Code: Full - confirmed
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2157-2-11**] 09:06 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2157-02-13 07:52:00 Physician Resident Progress Note
Chief Complaint: 60 M w/ ESRD on HD missed dialysis, took cocaine. P/w
   CP and SOB.
   24 Hour Events:
   - CE: Flat
   - Dialysis/Renal Recs: 4.7 liters off on nasal canula
   - Repeat CXR with pulmonary infiltrate bilaterally.
   - White count trending up. Afebrile will follow.
   Allergies:
   Morphine
   pt gets "itchy"
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2157-2-12**] 08:05 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-2-13**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**59**] AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 107 (93 - 108) bpm
   BP: 132/69(84) {119/43(61) - 158/105(112)} mmHg
   RR: 29 (15 - 37) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
                  Total In:
                                                                    716 mL
                  PO:
                                                                    640 mL
                  TF:
   IVF:
                                                                     76 mL
   Blood products:
   Total out:
                                                                  4,900 mL
                                                                      0 mL
   Urine:
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,184 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///31/
   Physical Examination
   General: Oriented X 3. Able to speak in full sentences without
   respiratory distress.
   HEENT: Sclera anicteric, PERRL, MMM, oropharynx clear.
   Neck: supple, JVD mid-neck
   Lungs: Bilateral ronchi basally.
   CV: Tachycardic, normal S1 + S2, no appreciated murmurs, rubs,
   gallops.
   Abdomen: soft, mildly distended, bowel sounds present, no tenderness or
   guarding, no organomegaly.
   Ext: well perfused, 2+ pulses, no clubbing, cyanosis, 1+ bilat LE
   edema. LUE with fistula vs. graft, good bruit and thrill.
   Neuro: CN II-XII intact. Strength 5/5 in distal UEs and LEs. Asterixis
   present.
   Labs / Radiology
   156 K/uL
   9.4 g/dL
   84 mg/dL
   5.8 mg/dL
   31 mEq/L
   3.9 mEq/L
   29 mg/dL
   92 mEq/L
   140 mEq/L
   29.3 %
   8.7 K/uL
        [image002.jpg]
                             [**2157-2-12**]  04:16 AM
                             [**2157-2-12**]  04:33 PM
                             [**2157-2-13**]  03:13 AM
   WBC
   11.8
   14.8
   8.7
   Hct
   31.3
   30.5
   29.3
   Plt
   182
   207
   156
   Cr
   9.9
   4.7
   5.8
   TropT
   0.23
   0.43
   Glucose
   134
   54
   84
   Other labs: PT / PTT / INR:16.1/32.9/1.4, CK / CKMB /
   Troponin-T:85/4/0.43, Ca++:8.9 mg/dL, Mg++:1.8 mg/dL, PO4:6.5 mg/dL
   Fluid analysis / Other labs: None.
   Imaging: CXR today - slight interval improvement, some fluid overload
   previously. Infiltrate not obviously concerning for PNA.
   Microbiology: Blood cultures - no growth yet.
   ECG: RBBB, biphasic Ps. TWI in VI, VII. Will be new today - continues
   to be tachycardic.
   Assessment and Plan
   60M with ESRD on HD, CAD, DM, atrial arrhythmia, CHF, presenting with
   shortness of breath and chest pain in setting of cocaine abuse and
   missing hemodialysis.
   # Chest pain
   Likely angina with some myocardial ischemia, not severe enough for
   enzyme leak. Although PNA unlikely, may be pleuritic component (less
   likely)
   - Continue statin; hold ACEI with increased K. Received ASA by EMS,
   continue 81 mg daily
   - BP control/decrease of myocardial demand
   - For pain control dilaudid, percocet and benzodiazepines prn
   - Encourage cessation of cocaine abuse
   # Hypoxia
   Missed HD with significant volume overload. Superimposed infection not
   obvious on CXR, but possible given rising WBC and productive cough. PE
   on differential but alternate explanations adequate.
   - HD (next session tomorrow) and diuresis
   - Attempt to wean respiratory support (no n.c.)
   - Hold off on antibiotics as no fever, no leukocytosis; likely volume
   overload given clinical history
   # Tachycardia/Aflutter
   Patient with baseline Aflutter; often demonstrating 2:1 conduction.
   Patient required diltiazem 10 mg IV for HR 170s.
   - Avoid BBs due to history of cocaine use.
   - Convert back to long-acting dilt. on discharge
   - Cannot anticoagulate long term given GIBs per past notes.
   # Hyperkalemia/hyperphsophatemia
   With ESRD and poor adherence to HD.
   - Tele for now (and likely on floor depending on events in record)
   - Continue HD
   - If ECG changes (peaked Ts) develop, give calcium, insulin and D50
   - Glucose control to encourage intracellular entry
   - Hold ACEI
   # Hypertension
   Secondary to volume overload.
   - Avoid BB due to cocaine use
   - Diltiazem 60 mg QID
   - If poorly controlled 190s or greater start nitro drip
   # ESRD on HD
   Overdue for HD as above.
   - HD again today
   - Managment of K
   - Continue renagel/nephrocaps/renal diet
   # Asterixis and Mental Status
   Typical DDx with asterixis include hypercarbia, uremia and hepatic
   encephalopathy. Each also produce mental status changes. He is somewhat
   inattentive. Most likely uremic
   - Follow
   # Cocaine abuse
   [**Last Name **] problem for patient.
   - SW consult.
   # Metabolic acidosis.
   Anion gap 21. Lactate normal. Likely secondary to renal failure from
   CKD.
   - Management as above.
   # Diabetes: Continue Insulin sliding scale.
   # FEN: No IVF, replete electrolytes, renal/DM/low Na
   # Prophylaxis: Subcutaneous heparin, home PPI
   # Access: peripherals - EJ plus fistula
   # Communication: Patient
   # Code: Full - confirmed
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2157-2-11**] 09:06 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2157-02-13 09:03:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: pulmonary edema
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -dialysis removed 4.7L fluid
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Morphine
   pt gets "itchy"
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2157-2-12**] 08:05 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-2-13**] 09:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**59**] AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.5
C (97.7
   HR: 109 (101 - 109) bpm
   BP: 133/73(87) {119/43(61) - 158/105(112)} mmHg
   RR: 22 (15 - 37) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
                  Total In:
                                                                    716 mL
                                                                    240 mL
   PO:
                                                                    640 mL
                                                                    240 mL
   TF:
   IVF:
                                                                     76 mL
   Blood products:
   Total out:
                                                                  4,900 mL
                                                                      0 mL
   Urine:
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,184 mL
                                                                    240 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///31/
   Physical Examination
   General Appearance: Well nourished, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: ), squeak/[**Doctor Last Name 114**] Rt lower lung field
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   156 K/uL
   84 mg/dL
   5.8 mg/dL
   31 mEq/L
   3.9 mEq/L
   29 mg/dL
   92 mEq/L
   140 mEq/L
   29.3 %
   8.7 K/uL
        [image002.jpg]
                             [**2157-2-12**]  04:16 AM
                             [**2157-2-12**]  04:33 PM
                             [**2157-2-13**]  03:13 AM
   WBC
   11.8
   14.8
   8.7
   Hct
   31.3
   30.5
   29.3
   Plt
   182
   207
   156
   Cr
   9.9
   4.7
   5.8
   TropT
   0.23
   0.43
   Glucose
   134
   54
   84
   Other labs: PT / PTT / INR:16.1/32.9/1.4, CK / CKMB /
   Troponin-T:85/4/0.43, Ca++:8.9 mg/dL, Mg++:1.8 mg/dL, PO4:6.5 mg/dL
   Assessment and Plan
 Pulmonary edema
   -dietary noncompliance, skipped HD
   -cocaine abuse
   -cont to require supp O2 via FM
   -dialysis removed >4L
   -sig reduction in FiO2 requirement - from FM down to NC
   -given rapid resolution with fluid removal low likelihoood infxn
   etiology
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
   -dialysis yesterday with good result
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   -chronic pain
   -h/o polysubstance abuse
Polysubstance abuse
    [**Hospital 11499**] rehab
Hyperkalemia
   -resolved
Tachycardia/flutter
   -in NSR
   -cont regimen
Hypertension
    -cont current regimen
   Remainder of plan per resident note
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2157-2-11**] 09:06 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent: